US05952362
4. Preparation of 4-chloro-2-methyl-3-nitrophenol
2-Methyl-3-nitrophenol (25.5 g), N-chlorosuccinimide (44.5 g), and trifluormethanesulfonic acid (50.0 g) were combined in dry acetonitrile (500 mL) and allowed to stir under an atmosphere of nitrogen at 75° C. for 1.5 hr. The reaction mixture was cooled to room temperature, diluted with ethyl ether (650 mL), washed with water, 10% sodium bisulfite solution, water, and finally saturated sodium chloride solution. Evaporation of the solvent afforded a crude material which was flash chromatographed on silica and eluted with acetone:hexane (1:9) to afford 16.8 g as a yellow solid.

reactant | 2-Methyl-3-nitrophenol | 25.5 g | CC1=C(C=CC=C1[N+](=O)[O-])O | C7H7NO3
reactant | N-chlorosuccinimide | 44.5 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | trifluormethanesulfonic acid | 50.0 g | FC(S(=O)(=O)O)(F)F | CHF3O3S
solvent | acetonitrile | 500 mL | C(C)#N | C2H3N
solvent | ethyl ether | 650 mL | C(C)OCC | C4H10O
product | 4-chloro-2-methyl-3-nitrophenol | ClC1=C(C(=C(C=C1)O)C)[N+](=O)[O-] | C7H6ClNO3
